US09340538B2
Step C: Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(1-methyl-1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate
1-methyl-1H-1,2,4-triazole-3-carboximidamide hydrochloride (3.3 g, 20 mmol) was reacted with 2-bromo-4-fluorobenzaldehyde (4 g, 20 mmol) and ethyl 3-oxobutanoate (2.6 g, 20 mmol) according to the procedure as described in Example 1, Step A to give the title compound as a white solid (5.3 g, 63%). The compound was characterized by the following spectroscopic data:

reactant | 1-methyl-1H-1,2,4-triazole-3-carboximidamide hydrochloride | 20 mmol, 3.3 g | Cl.CN1N=C(N=C1)C(N)=N
reactant | 2-bromo-4-fluorobenzaldehyde | 20 mmol, 4 g | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
reactant | ethyl 3-oxobutanoate | 20 mmol, 2.6 g | O=C(CC(=O)OCC)C | C6H10O3
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(1-methyl-1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate | 5.3 g, 63% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C1=NN(C=N1)C | C17H17BrFN5O2
